US06492545B2
Into a 1-L autoclave was introduced methanol (360 mL) in a nitrogen stream. Then, [{RuCl((R)-SEGPHOS)}2(μ-Cl)3][Me2NH2] (82 mg: 0.1 mmol) and methyl benzoylacetate (178 g: 1.0 mol) were added. After hydrogen (4.0 MPa) was forced into the autoclave, the reaction mixture was heated to 80° C. and stirred for 5.5 hours to carry out asymmetric hydrogenation reaction. After cooling, methanol was removed from the reaction mixture, and the residue was distilled under reduced pressure (94-99° C./133 Pa) to obtain 170.6 g (yield, 95.3%) of methyl (S)-3-hydroxy-3-phenylpropionate. The asymmetric yield thereof was determined with the HPLC (CHIRALCEL OD-H, 4.6 mm×250 mm; hexane/isopropyl alcohol=95/5; flow rate, 1.0 mL/min; detection wavelength, UV-254 nm), and was found to be 97.2%.

reactant | methyl benzoylacetate | 1.0 mol, 178 g | C(C1=CC=CC=C1)(=O)CC(=O)OC | C10H10O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 360 mL | CO | CH4O
product | methyl (S)-3-hydroxy-3-phenylpropionate | 170.6 g, 95.3% | O[C@@H](CC(=O)OC)C1=CC=CC=C1 | C10H12O3
